US07807686B2
To a solution of 2-methyl-4-nitrophenol (10.2 g, 67 mmol) in acetonitrile (250 mL) was added potassium carbonate (27.6 g, 200 mmol) and methyl iodide (4.1 mL, 66 mmol). The mixture was stirred at 80° C. for 12 h. After cooling to room temperature, the solid was removed by filtration and the filtrate was evaporated under reduced pressure. The resulting oil was dissolved in dichloromethane (250 mL). The solution was washed with 2N NaOH (aq.) (200 mL), brine (100 mL), dried (Na2SO4), filtered and evaporated to yield 1-methoxy-2-methyl-4-nitrobenzene (9.5 g, 57 mmol, 85%).

reactant | 2-methyl-4-nitrophenol | 67 mmol, 10.2 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | potassium carbonate | 200 mmol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 66 mmol, 4.1 mL | CI | CH3I
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 1-methoxy-2-methyl-4-nitrobenzene | 57 mmol, 9.5 g, 85% | COC1=C(C=C(C=C1)[N+](=O)[O-])C | C8H9NO3
